US05124342
2-(4-Carboxyphenyl)-4-hydroxy-5-phenylthiazole
The title compound was prepared according to the method of Scheme I in a manner analogous to Example 1 except thiomandelic acid and 4-cyanobenzoic acid were used instead of thiolactic acid and 2-cyanopyridine respectively.

reactant | thiomandelic acid | C(C(O)C1=CC=CC=C1)(=S)O | C8H8O2S
reactant | 4-cyanobenzoic acid | C(#N)C1=CC=C(C(=O)O)C=C1 | C8H5NO2
reactant | thiolactic acid | C(C(O)C)(=S)O | C3H6O2S
reactant | 2-cyanopyridine | C(#N)C1=NC=CC=C1 | C6H4N2
product | 2-(4-Carboxyphenyl)-4-hydroxy-5-phenylthiazole | C(=O)(O)C1=CC=C(C=C1)C=1SC(=C(N1)O)C1=CC=CC=C1 | C16H11NO3S
